US07777047B2
2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1-thia-3,8-diazaspiro[4.5]dec-2-en-8-yl)acetamide
A mixture of N-methyl-N-[2-(1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide (100 mg), chloroacetamide (30 mg), potassium carbonate (40 mg) and N,N-dimethylformamide (3 mL) was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography, and eluted with ethyl acetate:hexane=1:1 from a fraction to give the title compound (62 mg, yield 56%) as white crystals. melting point 226° C.

reactant | N-methyl-N-[2-(1-thia-3,8-diazaspiro[4.5]dec-2-en-2-yl)-1H-indol-7-yl]thiophene-2-sulfonamide | 100 mg | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC2(CN1)CCNCC2 | C20H22N4O2S3
reactant | chloroacetamide | 30 mg | ClCC(=O)N | C2H4ClNO
reactant | potassium carbonate | 40 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | Water | O | H2O
product | 2-(2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1-thia-3,8-diazaspiro[4.5]dec-2-en-8-yl)acetamide | 62 mg, yield 56% | CN(C=1C=CC=C2C=C(NC12)C=1SC2(CN1)CCN(CC2)CC(=O)N)S(=O)(=O)C=2SC=CC2 | C22H25N5O3S3
